US08071581B2
Step 1: quinoxalin-6-yl-acetic acid ethyl ester
A vial under nitrogen atmosphere was charged with benzopyrazine-6-boronic acid hydrochloride (500 mg, 2.38 mmol), palladium (II) acetate (16 mg, 0.071 mmol), tri-1-naphthylphosphine (88 mg, 0.214 mmol), potassium phosphate tribasic (2.52 g, 11.9 mmol), and tetrahydrofuran (10 mL). Ethyl 2-bromoacetate (0.315 mL, 2.85 mmol) was then added and the reaction mixture was stirred at reflux for 6 h. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were adsorbed on silica gel. Purification on silica gel with 0-100% gradient of ethyl acetate in hexane provided 96 mg of product as a dark yellow oil. 1H NMR 500 MHz (DMSO) δ 1.20 (t, 3H), 3.99 (s, 2H), 4.11 (q, 2H), 7.79 (dd, 1H), 8.01 (d, 1H), 8.06 (d, 1H), 8.94 (d, 2H); MS (m/z) 217 [M+H+]+.

reactant | benzopyrazine-6-boronic acid hydrochloride | 2.38 mmol, 500 mg | Cl.N1=CC=NC2=C1C=CC(=C2)B(O)O
reactant | tri-1-naphthylphosphine | 0.214 mmol, 88 mg | C1(=CC=CC2=CC=CC=C12)P(C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C30H21P
reactant | potassium phosphate tribasic | 11.9 mmol, 2.52 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Ethyl 2-bromoacetate | 2.85 mmol, 0.315 mL | BrCC(=O)OCC | C4H7BrO2
catalyst | palladium (II) acetate | 0.071 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | quinoxalin-6-yl-acetic acid ethyl ester | 96 mg | C(C)OC(CC=1C=C2N=CC=NC2=CC1)=O | C12H12N2O2
